US08426447B2
A glass microwave reaction vessel was charged with (S)-3-chloro-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine (0.075 g, 0.196 mmol), potassium phosphate (0.125 g, 0.588 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.082 g, 0.392 mmol) and Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) (0.014 g, 0.020 mmol) in dioxane (1.2 mL) and water (0.40 mL). The reaction mixture was stirred and heated in microwave at 120° C. for 30 min. The mixture was diluted with EtOAc and saturated Na2CO3. The organic layer was washed twice with saturated Na2CO3, dried over Na2SO4 and concentrated in vacuo. The crude was purified by silica gel chromatography (12 g, 2-10% MeOH-DCM, then 10% MeOH— DCM) provided (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine as a grey solid. Found MS: MH+=431.

reactant | (S)-3-chloro-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | 0.196 mmol, 0.075 g | ClC1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=CC1)F | C19H12ClFN4O2
reactant | potassium phosphate | 0.588 mmol, 0.125 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.392 mmol, 0.082 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) | 0.020 mmol, 0.014 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | O1CCC(=CC1)C1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=CC1)F | C24H19FN4O3
